US04659718
A mixture of 7-fluoro-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone (10 g), thiomorpholine (10 g) and dimethylformamide (20 ml) was heated at 100° for 22 hours and then at 140° for 5.5 hours. The mixture was cooled and poured into water (220 ml). The resulting precipitate was collected and purified by high performance liquid chromatography on silica using dichloromethane:industrial methylated spirit:isopropanol 98.25:0.5:1.25 as the eluent. This gave the novel compound 7-dimethylamino-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone, m.p. 280°-283°.

reactant | 7-fluoro-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone | 10 g | FC1=CC=C2C(C(=CN(C2=C1)C)C1=NN=NN1C)=O | C12H10FN5O
reactant | thiomorpholine | 10 g | N1CCSCC1 | C4H9NS
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 220 ml | O | H2O
product | 7-dimethylamino-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone | CN(C1=CC=C2C(C(=CN(C2=C1)C)C1=NN=NN1C)=O)C | C14H16N6O
